US07399759B2
N-(2-Chloroethyl)-N′-(4-pyridyl)urea
2-Chloroethylisocyanate (10.0 g, 94 mmol) was added dropwise to a mixture of 4-aminopyridine (6.0 g, 63 mmol) and toluene (40 mL) at 0° C., and the mixture was stirred at room temperature for 6 hrs. The precipitates were collected by filtration and washed with diisopropyl ether to give the titled compound (11.1 g, 87%) as white crystals.

reactant | 2-Chloroethylisocyanate | 94 mmol, 10.0 g | ClCCN=C=O | C3H4ClNO
reactant | 4-aminopyridine | 63 mmol, 6.0 g | NC1=CC=NC=C1 | C5H6N2
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | N-(2-Chloroethyl)-N′-(4-pyridyl)urea | 11.1 g, 87% | ClCCNC(=O)NC1=CC=NC=C1 | C8H10ClN3O
